US08222416B2
To a stirred solution of 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid tert-butylamide (240 mg, 0.51 mmol) in chloroform (5 mL) was added phosphorus oxychloride (0.72 mL, 7.71 mmol) at room temperature. The mixture was heated at 80° C. and stirred for 3 h. The resulting mixture was concentrated in vacuo and the residue was extracted with ethyl acetate, washed with a saturated aqueous sodium bicarbonate solution (2×50 mL), brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carbonitrile (35 mg, 14.9%) as a white solid: LC/MS m/e calcd for C22H23N3O2S [M+H]+ 394.51, observed 393.8; 1H NMR (400 MHz, CD3OD) δ ppm 8.42 (s, 1H), 8.26 (d, J=1.5 Hz, 1H), 7.90 (d, J=8.1 Hz, 1H), 7.60 (d, J=8.3 Hz, 1H), 6.54 (s, 1H), 4.34 (t, J=8.0 Hz, 1H), 3.32-3.32 (m, 1H), 3.31 (s, 8H), 3.09 (s, 2H), 2.24-2.32 (m, 1H), 2.10-2.18 (m, 1H), 1.60-1.87 (m, 3H), 1.44-1.55 (m, 1H), 1.17-1.32 (m, 2H).

reactant | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid tert-butylamide | 0.51 mmol, 240 mg | C(C)(C)(C)NC(=O)C=1C=C2C(=NC1)NC(=C2)C(CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C26H33N3O3S
reactant | phosphorus oxychloride | 7.71 mmol, 0.72 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carbonitrile | 35 mg, 14.9% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)C#N)N1 | C22H23N3O2S
